US09056914B2
To a solution of 10.6 g of tert-butyl 3-[(2-methanesulfonyloxy-ethyl)-(2-nitro-benzenesulfonyl)-amino]-propionate in 220 ml of DMF was added 16.2 g of K2CO3 and 5.6 g of diethyl 4-hydroxy-pyridine-2,6-dicarboxylate. The mixture was heated for 20 hours at 60° C. and then concentrated under reduced pressure and taken up in 200 ml of water and 200 ml of EtOAc. The aqueous phase was extracted 2× with EtOAc. The organic phases were combined, washed with saturated NaCl solution, dried over MgSO4, concentrated under reduced pressure and purified by flash chromatography on silica (Merck EasyVarioPrep 600 g column, Si60 15-40 μm), using a gradient of 0 to 20% EtOAc in DCM. The fractions containing the desired product were combined and concentrated under reduced pressure. 6.56 g of diethyl 4-{2-[(2-tert-butoxycarbonyl-ethyl)-(2-nitro-benzenesulfonyl)-amino]-ethoxy}-pyridine-2,6-dicarboxylate were obtained. LC/MS (C): tr=4.14 min; [M+H]+: m/z 596.

reactant | tert-butyl 3-[(2-methanesulfonyloxy-ethyl)-(2-nitro-benzenesulfonyl)-amino]-propionate | 10.6 g | CS(=O)(=O)OCCN(CCC(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H24N2O9S2
reactant | K2CO3 | 16.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diethyl 4-hydroxy-pyridine-2,6-dicarboxylate | 5.6 g | OC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C11H13NO5
solvent | DMF | 220 ml | CN(C)C=O | C3H7NO
product | diethyl 4-{2-[(2-tert-butoxycarbonyl-ethyl)-(2-nitro-benzenesulfonyl)-amino]-ethoxy}-pyridine-2,6-dicarboxylate | 6.56 g | C(C)(C)(C)OC(=O)CCN(CCOC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C26H33N3O11S
